US06037367
Preparation of (+/-)-3-(3-cyclopentyloxy-4-methoxyphenyl)4(5-ethyloxazol-2-yl)-1-phenylbut-1-yne
To a solution of (+/-)-3-(3-cyclopentyloxy-4-methoxyphenyl)-3-phenylethynylpropionic acid (0.50 g, 1.37 mmol) and dimethyl formamide (3 drops) in dichloromethane (10 mL) at room temperature under an argon atmosphere was dropwise added oxalyl chloride (0.125 mL, 1.44 mmol). The reaction was stirred 0.5 h, was evaporated, was dissolved in tetrahydrofuran (5 mL) and was added to a solution of 1-amino-2-butanol (0.15 mL, 1.52 mmol) and triethylamine (0.23 mL, 1.64 mmol) in tetrahydrofuran (10 mL) and was stirred at room temperature under an argon atmosphere for 1 h. Water was added, the reaction was extracted with three times dichloromethane, was dried (MgSO4) and was evaporated. Purification by flash chromatography, eluted with 2:98 methanol:dichloromethane provided the title compound (0.54 g, 91%) as a white solid, mp.94-96° C.

reactant | (+/-)-3-(3-cyclopentyloxy-4-methoxyphenyl)-3-phenylethynylpropionic acid | 1.37 mmol, 0.50 g | C1(CCCC1)OC=1C=C(C=CC1OC)C(CC(=O)O)C#CC1=CC=CC=C1 | C23H24O4
reactant | oxalyl chloride | 1.44 mmol, 0.125 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 1-amino-2-butanol | 1.52 mmol, 0.15 mL | NCC(CC)O | C4H11NO
reactant | triethylamine | 1.64 mmol, 0.23 mL | C(C)N(CC)CC | C6H15N
catalyst | dimethyl formamide | 3 drops | CN(C=O)C | C3H7NO
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | Water | O | H2O
product | (+/-)-3-(3-cyclopentyloxy-4-methoxyphenyl)4(5-ethyloxazol-2-yl)-1-phenylbut-1-yne | 0.54 g, 91% | C1(CCCC1)OC=1C=C(C=CC1OC)C(C#CC1=CC=CC=C1)CC=1OC(=CN1)CC | C27H29NO3
